US08791129B2
[2-Amino-6-[2-(hydroxymethyl)phenyl]quinazolin-4-yl]isoindolin-2-ylmethanone (“A1”)
100 mg of (2-amino-6-iodoquinazolin-4-yl)-(1,3-dihydroisoindol-2-yl)methanone are dissolved in 2 ml of ethylene glycol dimethyl ether. 48 mg of 2-hydroxymethylphenylboronic acid, 66 mg of potassium carbonate, 14 mg of [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride and 50 μl of water are added to this solution, and the mixture is heated at 130° C. under argon for 30 min. The hot mixture is filtered off through Celite, and the solution is evaporated to dryness under reduced pressure. The reddish residue obtained is triturated with acetonitrile, during which a beige solid precipitates out. This is filtered, washed with acetonitrile and dried overnight at 40° C. in a drying cabinet.

reactant | (2-amino-6-iodoquinazolin-4-yl)-(1,3-dihydroisoindol-2-yl)methanone | 100 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)I | C17H13IN4O
reactant | 2-hydroxymethylphenylboronic acid | 48 mg | OCC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 66 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 μl | O | H2O
solvent | ethylene glycol dimethyl ether | 2 ml | COCCOC | C4H10O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride | 14 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [2-Amino-6-[2-(hydroxymethyl)phenyl]quinazolin-4-yl]isoindolin-2-ylmethanone | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=CC=C1)CO | C24H20N4O2
